US04001227
5-phenyl-5H-tetrazolo[1,5-a][3,1]benzothiazine
The preferred compounds are 9-chloro-5H-tetrazolo-[1,5-a][3,1]benzothiazine, 5H-tetrazolo[1,5-a][3,1]benzothiazine, 9-methyl-5-H-s-triazolo[4,3-a][3,1]benzothiazine, 1,7-dimethyl-5H-s-triazolo[4,3-a][3,1]benzothiazine, 9-chloro-5H-s-triazolo[4,3-a][3,1]benzothiazine, 9-methyl-5H-tetrazolo[1,5-a][3,1]benzothiazine, 7-chloro-1-methyl-5-phenyl-5H-s-triazolo[4,3-a][3,1]benzothiazine and 1-methyl-5H-s-triazolo[4,3-a][3,1]benzothiazine.

reactant | 9-chloro-5H-tetrazolo-[1,5-a][3,1]benzothiazine | ClC1=CC=CC=2CSC=3N(C21)N=NN3 | C8H5ClN4S
reactant | 5H-tetrazolo[1,5-a][3,1]benzothiazine | N1=NN=C2N1C1=C(CS2)C=CC=C1 | C8H6N4S
reactant | 9-methyl-5-H-s-triazolo[4,3-a][3,1]benzothiazine | CC1=CC=CC=2CSC=3N(C21)C=NN3 | C10H9N3S
reactant | 1,7-dimethyl-5H-s-triazolo[4,3-a][3,1]benzothiazine | CC1=NN=C2N1C1=C(CS2)C=C(C=C1)C | C11H11N3S
reactant | 9-chloro-5H-s-triazolo[4,3-a][3,1]benzothiazine | ClC1=CC=CC=2CSC=3N(C21)C=NN3 | C9H6ClN3S
reactant | 9-methyl-5H-tetrazolo[1,5-a][3,1]benzothiazine | CC1=CC=CC=2CSC=3N(C21)N=NN3 | C9H8N4S
reactant | 7-chloro-1-methyl-5-phenyl-5H-s-triazolo[4,3-a][3,1]benzothiazine | ClC=1C=CC2=C(C(SC=3N2C(=NN3)C)C3=CC=CC=C3)C1 | C16H12ClN3S
reactant | 1-methyl-5H-s-triazolo[4,3-a][3,1]benzothiazine | CC1=NN=C2N1C1=C(CS2)C=CC=C1 | C10H9N3S
product | 5-phenyl-5H-tetrazolo[1,5-a][3,1]benzothiazine | C1(=CC=CC=C1)C1SC=2N(C3=C1C=CC=C3)N=NN2 | C14H10N4S
